US04053470
q. 6-[m-(Diethylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride.
A suspension of 3.0 g. (10.48 mmoles) of 6-[m-(diethylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid in 50 ml. dichloromethane under nitrogen is treated with 0.85 ml. (11.54 mmoles) of thionyl chloride. Solution occurred at once and in about 15 minutes a solid started to appear. The suspension is allowed to stire at room temperature overnight. The solid 6-[m-(diethylamino)-phenyl]-1,2-dihydro-2-oxonicotinyl chloride, hydrochloride is collected and washed with dichloromethane. There is obtained 3.28 g. of the acid chloride, hydrochloride.

reactant | 6-[m-(diethylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 10.48 mmoles | C(C)N(C=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O)CC | C16H18N2O3
reactant | thionyl chloride | 11.54 mmoles | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[m-(Diethylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.C(C)N(C=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O)CC | InChI=1S/C16H19ClN2O.ClH/c1-3-19(4-2)14-7-5-6-12(10-14)15-9-8-13(11-17)16(20)18-15;/h5-10H,3-4,11H2,1-2H3,(H,18,20);1H
